US04771046
(3) 3-Methoxyiminopyrrolidine hydrochloride
7 ml of a 3M hydrogen chloride solution in ethyl acetate was added to 2.3 g of ice-cooled 1-(t-butoxycarbonyl)-3-methoxyiminopyrrolidine, and the mixture was stirred at about 40° C. for one hour. After completion of the reaction, the solvent was stripped off from the reaction mixture and ether was added to the residue. The crystals which formed were collected by filtration and washed with ether, giving 1.5 g of the title compound.

reactant | hydrogen chloride | 3M | Cl | ClH
reactant | 1-(t-butoxycarbonyl)-3-methoxyiminopyrrolidine | C(C)(C)(C)OC(=O)N1CC(CC1)=NOC | C10H18N2O3
reactant | ether | CCOCC | C4H10O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-Methoxyiminopyrrolidine hydrochloride | 1.5 g | Cl.CON=C1CNCC1 | InChI=1S/C5H10N2O.ClH/c1-8-7-5-2-3-6-4-5;/h6H,2-4H2,1H3;1H
